US07273879B2
Into 2 ml of N,N-dimethylformamide were dissolved 100 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 78 mg of 3-pyridinemethanol, 78 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 0.5 hour under ice-cooling and for 1 hours at room temperature. The reaction mixture was added to saturated ammonium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 88 mg of 5-(3-pyridylmethyl)-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (20)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 100 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 3-pyridinemethanol | 78 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | sodium hydride | 78 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(3-pyridylmethyl)-3-methylthio-1,2,4-thiadiazole | 88 mg | N1=CC(=CC=C1)CC1=NC(=NS1)SC | C9H9N3S2
